US07253292B2
Step b) 6-(tert-butyl)-2-methyl-8H-indeno[2,1-b]thiophen-8-one
A solution of 2.23 g (0.01 mol) of 4-[4-(tert-butyl)phenyl]-2-methylthiophene, 2.97 mL (0.02 mol) of TMEDA in 30 mL of ether was treated with 13 mL (0.02 mol) of 1.6M BuLi in hexane under stirring at −40° C. Then the reaction mixture was allowed to warm up to r.t. and stirred for 3 h. The reaction mixture was cooled −40° C. and treated with 1.17 g (0.01 mol) of ethyl N,N-dimethylcarbamate in 10 mL of ether. Then the reaction mixture was allowed to warm up to r.t. and was stirred overnight. Resulting mixture was treated with 10% aqueous NH4Cl, organic layer was separated, washed with 10% aqueous NH4Cl and then dried over anhydrous Na2SO4. Solvent was evaporated, the residue was washed with methanol. Yield 2.4 g (about 100%) of red oil.

reactant | 4-[4-(tert-butyl)phenyl]-2-methylthiophene | 0.01 mol, 2.23 g | C(C)(C)(C)C1=CC=C(C=C1)C=1C=C(SC1)C | C15H18S
reactant | TMEDA | 0.02 mol, 2.97 mL | CN(C)CCN(C)C | C6H16N2
reactant | BuLi | 0.02 mol, 1.6M, 13 mL | [Li]CCCC
reactant | ethyl N,N-dimethylcarbamate | 0.01 mol, 1.17 g | CN(C(OCC)=O)C | C5H11NO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 10 mL | CCOCC | C4H10O
product | 6-(tert-butyl)-2-methyl-8H-indeno[2,1-b]thiophen-8-one | C(C)(C)(C)C1=CC=2C(C=3SC(=CC3C2C=C1)C)=O | C16H16OS
